US06939928B1
(1) Synthesis of 3-tert-butyl-6,6-diethylfulvene
To a THF solution of 1.53 g (13 mmol) of tert-butylcyclopentadiene, 9.0 ml (14 mmol) of a hexane solution of n-butyllithium was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. Then, 1.7 ml (16 mmol) of 3-pentanone was further added at −78° C., followed by stirring at room temperature for 2 days. To the reaction solution, water was added. The mixture was subjected to extraction with ether, then the solvent was distilled off, and the residue was subjected to column chromatography (silica gel, developing solvent: hexane) to obtain 1.50 g of a yellow liquid (Yield: 63%). The analyzed values are given below.

reactant | tert-butylcyclopentadiene | 13 mmol, 1.53 g | C(C)(C)(C)C1=CC=CC1 | C9H14
reactant | hexane | 14 mmol, 9.0 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-pentanone | 16 mmol, 1.7 ml | CCC(CC)=O | C5H10O
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3-tert-butyl-6,6-diethylfulvene | 1.50 g, Yield: 63% | C(C)(C)(C)C=1C=CC(C1)=C(CC)CC | C14H22
